US07994171B2
3-(2-(4-fluorophenyl)-6-(N-(2-hydroxyethyl)methylsulfonamido)-3-(methylcarbamoyl)benzofuran-5-yl)benzoic acid.
Step 1: (2-bromoethoxy)(tert-butyl)dimethylsilane (189 μL, 0.881 mmol) was added to a stirring suspension of Na2CO3 (311 mg, 2.94 mmol) and ethyl 3-(6-(N-(2-(tert-butyldimethylsilyloxy)ethyl)methylsulfonamido)-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)benzoate in DMF (6 mL) at 100° C. It was allowed to stir for 5 hrs, and then allowed to cool to rt and stir overnight. The mixture was diluted with EtOAc and washed with sat NaHCO3, and sat NaCl. The organic phase was dried over Na2SO4, filtered and concentrated. LC-MS retention time: 2.12 min; m/z (MH+): 669. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters XBridge 5u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 5% acetonitrile/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% acetonitrile/10 mM ammonium acetate. MS data was determined using a Micromass Platform for LC in electrospray mode. Step 2: The residue was diluted with EtOH (10 mL) and treated with NaOH (2938 μL, 2.94 mmol) and allowed to stir at 60° C. for 4 hours. The mixture was diluted with EtOAc and washed with 1M HCl, and sat NaCl. The organic phase was dried over Na2SO4, filtered and concentrated. Step 3: The crude residue was taken up in THF and treated with 1M HCl (making it 30% in THF). The reaction was allowed to stir for 1 hour. The mixture was diluted with EtOAc and washed with 1M HCl, and sat NaCl. The organic phase was dried over Na2SO4, filtered and concentrated to give the titled compound (300 mg, 97%). LC-MS retention time: 1.09 min; m/z (MH+): 527. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters XBridge 5u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 5% acetonitrile/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% acetonitrile/10 mM ammonium acetate. MS data was determined using a Micromass Platform for LC in electrospray mode.

reactant | (2-bromoethoxy)(tert-butyl)dimethylsilane | 0.881 mmol, 189 μL | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
reactant | Na2CO3 | 2.94 mmol, 311 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | ethyl 3-(6-(N-(2-(tert-butyldimethylsilyloxy)ethyl)methylsulfonamido)-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)benzoate | [Si](C)(C)(C(C)(C)C)OCCN(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C=C1C=1C=C(C(=O)OCC)C=CC1 | C34H41FN2O7SSi
reactant | NaOH | 2.94 mmol, 2938 μL | [OH-].[Na+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(2-(4-fluorophenyl)-6-(N-(2-hydroxyethyl)methylsulfonamido)-3-(methylcarbamoyl)benzofuran-5-yl)benzoic acid | 300 mg, 97% | FC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C(=C2)N(S(=O)(=O)C)CCO)C=2C=C(C(=O)O)C=CC2 | C26H23FN2O7S
